US05214172
Preparation of divinyl adipate:
In a 3-necked 1000 ml round bottom flask equipped with a reflux condenser, thermometer and magnetic stirrer was added vinyl acetate (320 g, 3791 mmol), adipic acid (17.5 g, 120 mmol), [pyridine]2Pd(OAc)2 (1.2 g, 3.1 mmol) and p-toluenesulfonic acid (4.4 g, 25.6 mmol). The temperature was held at 65° C. for 4 hours. After cooling to room temperature, NaOAc (3.0 g) was added to the solution. Volatiles were removed by a roto-vac. The non-volatiles were diluted with 200 ml hexane, extracted with 2×100 ml 2% NaOH, extracted with 100 ml distilled water and then dried over Na2SO4. The hexane was removed with a roto-vac. TLC showed on component. The divinyl adipate weighed 23.7 g (99.7% yield). IR(NaCl plate): 2940, 1750, 1640, 1370 cm-1.

reactant | vinyl acetate | 3791 mmol, 320 g | C(C)(=O)OC=C | C4H6O2
reactant | adipic acid | 120 mmol, 17.5 g | C(CCCCC(=O)O)(=O)O | C6H10O4
reactant | p-toluenesulfonic acid | 25.6 mmol, 4.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaOAc | 3.0 g | CC(=O)[O-].[Na+]
product | divinyl adipate | 99.7% yield | C(CCCCC(=O)OC=C)(=O)OC=C | C10H14O4
